US05371096
A solution of 6.7 g (0.0184 mol) of methyl (E)-(2S,3S,4S)-3-[4-(t-butyldimethylsilyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]-2-propenoate in 94 mL of ethanol is hydrogenated over 0.7 g of 10% palladium on carbon catalyst at atmospheric pressure. The catalyst is filtered, washed with ethanol and the filtrates are evaporated to dryness to give methyl (2S,3S,4S)-3-[4-(t-butyl-dimethylsilyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]propanoate as an oil with elemental analysis: C, 62.77; H, 8.35: N, 3.84 (theory: C, 62.43: H, 8.55: N, 3.83).

reactant | methyl (E)-(2S,3S,4S)-3-[4-(t-butyldimethylsilyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]-2-propenoate | 0.0184 mol, 6.7 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)/C=C/C(=O)OC | C19H29NO4Si
solvent | ethanol | 94 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
product | methyl (2S,3S,4S)-3-[4-(t-butyl-dimethylsilyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]propanoate | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CCC(=O)OC | C19H31NO4Si
